Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Chest/Back Pain
 
Major Surgical or Invasive Procedure:
Coronary Angiography-including catheter placement
Left Heart Catheterization

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:
Patient is a ___ year old man with no past medical history (has 
not seen a doctor in ___ years) presents with right lower back 
pain as well as pain between his scapula radiating to his 
anterior chest started at 8 ___ on ___. Right lower back pain 
has been longstanding for several months, described as stabbing, 
chest pain described as pressure. Also had diaphoresis and 
nausea with vomiting x12 at the onset of these symptoms, no 
hemoptysis. Denies shortness of breath, fevers, chills, 
diarrhea. Similar episode of chest pain that was less severe 1 
month ago that self resolved. Went to ___ around 10 ___. 
ECG initially with inferior and septal TWI. Received 324mg ASA, 
nitro paste, started on heparin gtt. Repeat ECG with worsening 
of anterior TWI. CTA normal to r/o dissection. Initial trop 
@2300 negative. Given ongoing chest pain, also development of 
rate related LBBB, cardiology recommended transfer to BI for 
cath.

In the ED initial vitals were: Temp: 98.1 HR: 50 BP: 133/73 
Resp: 18 O2 Sat: 97
Exam: Appears tired CTAB RRR, no m/r/g 
EKG: TWI II, III, V1-V4. Biphasic TW V5. 1mm ST depressions V3, 
V4
Labs/studies notable for:  WBC 15.1, trop <0.01
Patient was given:  
Vitals on transfer:  99.3 PO 120 / 63 61 16 95 RA

On the floor patient denied chest pain, hemodynamically stable. 
Of note, reports feeling feverish, no dyspnea, no recent colds 
or illnesses. Patient's son was sick with 101 fever for 4 days 
last week, resolved spontaneously.

 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
Mother ___ years): HTN
Brother ___ years): HTN
 
Physical Exam:
Admission Physical Exam
===========================
VS: 99.3 PO 120 / 63 61 16 95 RA  
GENERAL: Appears tired, no acute distress, pleasant and 
conversant.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVD
CARDIAC: Regular rate and rhythm, no rubs murmurs or gallops.  
LUNGS: CTABL, No crackles, wheezes or rhonchi.  
ABDOMEN: LUQ ___ tenderness on palpation, soft, nondistended. 
No HSM.  
EXTREMITIES: No cyanosis, clubbing, or edema 
SKIN: LUQ maculopapular rash (longstanding), no ulcers, scars, 
or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE Physical Exam
===========================
same as above
 
Pertinent Results:
Admission labs
================

___ 04:20AM BLOOD WBC-15.1* RBC-4.92 Hgb-13.6* Hct-41.3 
MCV-84 MCH-27.6 MCHC-32.9 RDW-12.8 RDWSD-39.0 Plt ___
___ 04:20AM BLOOD Neuts-90.8* Lymphs-5.1* Monos-3.2* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-13.72* AbsLymp-0.77* 
AbsMono-0.48 AbsEos-0.01* AbsBaso-0.05
___ 04:20AM BLOOD ___ PTT-79.1* ___
___ 04:20AM BLOOD Plt ___
___ 04:20AM BLOOD Glucose-145* UreaN-14 Creat-0.9 Na-138 
K-7.8* Cl-105 HCO3-17* AnGap-16
___ 09:40AM BLOOD ALT-19 AST-15 LD(LDH)-160 AlkPhos-60 
TotBili-0.6
___ 04:20AM BLOOD ALT-LESS THAN  AST-59* LD(___)-801* 
CK(CPK)-172 AlkPhos-49 TotBili-0.5
___ 06:00AM BLOOD Lipase-13
___ 09:40AM BLOOD hsCRP-6.9
___ 06:00AM BLOOD cTropnT-<0.01
___ 04:20AM BLOOD cTropnT-<0.01
___ 04:20AM BLOOD CK-MB-2
___ 09:40AM BLOOD Cholest-220*
___ 04:20AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.1
___ 09:40AM BLOOD %HbA1c-5.3 eAG-105
___ 09:40AM BLOOD Triglyc-171* HDL-50 CHOL/HD-4.4 
LDLcalc-136*
___ 09:40AM BLOOD TSH-0.71
___ 05:23AM BLOOD K-4.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with no past medical history 
(has not seen a doctor in ___ years) presents with right lower 
back pain radiating to his anterior chest at 8 ___ on ___. 
Associated with diaphoresis and nausea/vomiting. Presented to 
___ for initial evaluation and transferred to ___ 
for cardiac catheterization. Problems addressed during his 
admission are listed below:

#Chest/back pain: Transferred from ___, ECG with 
inferior and septal TWI, troponins negative, CTA normal. 
Received 324mg ASA, SL nitro and nitro paste, started on heparin 
gtt. Cardiology recommended transfer to ___ for cath. At ___ 
___, patient was hemodynamically stable with no chest pain, 
endorsed low back pain (longstanding). Repeat EKG revealed rate 
related LBBB, started nitro gtt. Repeat troponin negative, cath 
showed no coronary artery disease, ECHO showed LVEF >55% with no 
wall motion abnormalities or valvular disease, lipid panel, A1C, 
CMP within normal limits. Back pain has been longstanding, most 
likely musculoskeletal. Was given toradol 15 IV and Tylenol. 
Suggested Tylenol/NSAIDs for pain at home. Also told to 
establish care with PCP ___ ___ days of discharge.

#Leukocytosis: Admission WBC 15.1, however this was an isolated 
finding as patient was afebrile with no systemic signs of 
infection. Detailed history and physical exam unrevealing. 
Patient had LUQ pain and vomiting that resolved completely at 
discharge. LFTs, CRP, lipase within normal limits.

TRANSITIONAL ISSUES:
- Would repeat CBC within 1 week of discharge to ensure 
resolution of leukocytosis.
- Back pain likely musculoskeletal. Would proceed with work-up 
as needed if it does not improve with short course of 
analgesics/anti-inflammatories.

#CODE STATUS: Full (confirmed)
#CONTACT: ___ (wife) ___
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Chest/Back Pain

SECONDARY DIAGNOSES:
====================
Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___. You came to the hospital because you developed 
chest and back pain at home. You were concerned by these 
symptoms and went to the ED in ___ for initial evaluation 
before being transferred to ___. We were concerned that 
this chest pain was related to your heart. We obtained blood 
tests, EKGs, and a cardiac catheterization to view the blood 
vessels surrounding your heart. We found a conduction 
abnormality in your heart which may have caused some of your 
chest pain. The results of all the other tests we performed were 
normal. We think your heart is healthy and that you are able to 
return home safely. You had a mildly elevated white blood cell 
count that you should follow-up with your primary care 
physician.

We believe your back pain is most likely musculoskeletal. We 
gave you anti-inflammatory medications to help relieve this 
pain.

Please be sure to establish care with a primary care physician. 
We recommend that you follow up with a primary care physician 
___ ___ days from discharge.

We wish you all the best!
-Your ___ care team
 
Followup Instructions:
___